US07557114B2
(b) 5-Fluoro-6-nitro-isoindole-1,3-dione
To 753 mmol fuming nitric acid at 0° C. was added dropwise 150 ml 20% oleum. 150.6 mmol 5-fluoro-isoindole-1,3-dione was then added portionwise and the resulting suspension was allowed to warm to room temperature over 4 hours and then stirred for a further 16 h at room temperature and finally was heated at 50° C. for 3 h. The reaction mixture was poured onto ice and the resulting mixture was filtered and the filter cake dried in vacuo to afford the title compound as a yellow solid (68% yield). MS (m/e): 209.1 ([M−H]−, 100%).

reactant | nitric acid | 753 mmol | [N+](=O)(O)[O-] | HNO3
reactant | 5-fluoro-isoindole-1,3-dione | 150.6 mmol | FC=1C=C2C(NC(C2=CC1)=O)=O | C8H4FNO2
solvent | oleum | 150 ml | OS(=O)(=O)O.O=S(=O)=O
product | 5-Fluoro-6-nitro-isoindole-1,3-dione | 68% yield | FC=1C=C2C(NC(C2=CC1[N+](=O)[O-])=O)=O | C8H3FN2O4
